US04206210
To a suspension of 7,8-dihydroxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide (34 g, 0.101 mole, U.S. Pat. No. 3,393,192) in methanol (275 ml) was added a solution of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (25.2 g, 0.111 mole) in methanol (125 ml). The addition was carried out rapidly with stirring at 0° under an argon atmosphere. After stirring at 0° for 1 hour the reaction mixture was filtered and the orange precipitate was washed with cold methanol (75 ml), ethyl acetate (100 ml) and then diethyl ether (100 ml). After drying at room temperature under vacuum, 1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine-7,8-dione hydrobromide (32.8 g, 0.98 mole, 97%) was obtained, mp 164°-165° (dec.).

reactant | 7,8-dihydroxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide | Br.OC1=CC2=C(C(CNCC2)C2=CC=CC=C2)C=C1O
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 0.111 mole, 25.2 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | methanol | 275 ml | CO | CH4O
solvent | methanol | 125 ml | CO | CH4O
product | 1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine-7,8-dione hydrobromide | 0.98 mole, 32.8 g, 97% | Br.C1(=CC=CC=C1)C1CNCCC=2C1=CC(C(C2)=O)=O | InChI=1S/C16H15NO2.BrH/c18-15-8-12-6-7-17-10-14(13(12)9-16(15)19)11-4-2-1-3-5-11;/h1-5,8-9,14,17H,6-7,10H2;1H
